US08580841B2
Step F: Preparation of Ethyl 7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-3-(2-ethoxy-2-oxoethyl)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate.
In a 1 L flask was placed EtOH (500 mL). Sulfuric acid (2.4 g, 23.98 mmol) was added at 40° C., followed by ethyl 1-(2-ethoxy-2-oxoethyl)-2-oxocyclopentanecarboxylate (15.2 g, 62.7 mmol). (4-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)phenyl)hydrazine hydrochloride (24.0 g, 62.0 mmol) was added and the solution became light yellow and homogenous. The reaction mixture was refluxed overnight with a Dean-Starks condenser attached. The mixture was cooled and extracted in ethyl acetate (3×100 mL). The organics were washed with water (200 mL), sodium bicarbonate solution (2×70 mL), water (100 mL), dried over magnesium sulfate, and concentrated. The residue was dissolved in hexanes/ethyl acetate (80:20, 300 mL), added silica gel (30 g) and stirred for 35 minutes. The slurry was filtered, washed with the same elution solvent (100 mL) and the filtrate was concentrated to give the title compound (26.7 g). LCMS m/z=558.5 [M+H]+.

reactant | Sulfuric acid | 23.98 mmol, 2.4 g | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 1-(2-ethoxy-2-oxoethyl)-2-oxocyclopentanecarboxylate | 62.7 mmol, 15.2 g | C(C)OC(CC1(C(CCC1)=O)C(=O)OCC)=O | C12H18O5
reactant | (4-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)phenyl)hydrazine hydrochloride | 62.0 mmol, 24.0 g | Cl.C1(CCCC1)C1=C(C=C(COC2=CC=C(C=C2)NN)C=C1)C(F)(F)F
solvent | EtOH | 500 mL | CCO | C2H6O
product | Ethyl 7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-3-(2-ethoxy-2-oxoethyl)-1,2,3,4-tetrahydrocyclopenta[b]indole-3-carboxylate | 26.7 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)(C(=O)OCC)CC(=O)OCC)C=C1)C(F)(F)F | C31H34F3NO5
